** Name: SimpleOpAmp78

.MACRO SimpleOpAmp78 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias VoltageBiasXXnXX1Yinner VoltageBiasXXnXX1Yinner nmos4 L=2e-6 W=10e-6
mDiodeTransistorNmos2 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=2e-6 W=378e-6
mDiodeTransistorNmos3 FirstStageYinnerOutputLoad2 FirstStageYinnerOutputLoad2 FirstStageYinnerTransistorStack1Load2 FirstStageYinnerTransistorStack1Load2 nmos4 L=1e-6 W=79e-6
mDiodeTransistorNmos4 FirstStageYinnerTransistorStack1Load2 FirstStageYinnerTransistorStack1Load2 sourceNmos sourceNmos nmos4 L=1e-6 W=116e-6
mDiodeTransistorPmos5 inputVoltageBiasXXpXX1 inputVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 pmos4 L=1e-6 W=15e-6
mDiodeTransistorPmos6 outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=44e-6
mNormalTransistorNmos7 inputVoltageBiasXXpXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=2e-6 W=76e-6
mNormalTransistorNmos8 out FirstStageYinnerOutputLoad2 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerTransistorStack2Load2 nmos4 L=1e-6 W=79e-6
mNormalTransistorNmos9 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerTransistorStack1Load2 sourceNmos sourceNmos nmos4 L=1e-6 W=116e-6
mNormalTransistorNmos10 FirstStageYsourceGCC1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=2e-6 W=164e-6
mNormalTransistorNmos11 FirstStageYsourceGCC2 in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=2e-6 W=164e-6
mNormalTransistorNmos12 FirstStageYsourceTransconductance ibias outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 nmos4 L=2e-6 W=378e-6
mNormalTransistorNmos13 VoltageBiasXXnXX1Yinner outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=2e-6 W=10e-6
mNormalTransistorPmos14 out inputVoltageBiasXXpXX1 FirstStageYsourceGCC2 FirstStageYsourceGCC2 pmos4 L=1e-6 W=600e-6
mNormalTransistorPmos15 FirstStageYinnerOutputLoad2 inputVoltageBiasXXpXX1 FirstStageYsourceGCC1 FirstStageYsourceGCC1 pmos4 L=1e-6 W=600e-6
mNormalTransistorPmos16 FirstStageYsourceGCC1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=265e-6
mNormalTransistorPmos17 FirstStageYsourceGCC2 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=265e-6
Capacitor1 out sourceNmos 10e-12
.EOM SimpleOpAmp78

** Expected Performance Values: 
** Gain: 89 dB
** Power consumption: 4.88301 mW
** Area: 4539 (mu_m)^2
** Transit frequency: 35.5291 MHz
** Transit frequency with error factor: 35.5289 MHz
** Slew rate: 31.0424 V/mu_s
** Phase margin: 77.9223°
** CMRR: 144 dB
** VoutMax: 3.97001 V
** VoutMin: 0.760001 V
** VcmMax: 5.10001 V
** VcmMin: 1.28001 V


** Expected Currents: 
** NormalTransistorNmos: 75.3431 muA
** NormalTransistorPmos: -260.196 muA
** NormalTransistorPmos: -445.601 muA
** NormalTransistorPmos: -260.196 muA
** NormalTransistorPmos: -445.601 muA
** DiodeTransistorNmos: 260.197 muA
** DiodeTransistorNmos: 260.196 muA
** NormalTransistorNmos: 260.197 muA
** NormalTransistorNmos: 260.196 muA
** NormalTransistorNmos: 370.809 muA
** DiodeTransistorNmos: 370.81 muA
** NormalTransistorNmos: 185.405 muA
** NormalTransistorNmos: 185.405 muA
** DiodeTransistorNmos: 9.99901 muA
** NormalTransistorNmos: 9.99801 muA
** DiodeTransistorPmos: -75.3439 muA
** DiodeTransistorPmos: -75.3429 muA


** Expected Voltages: 
** ibias: 1.11501  V
** in1: 2.5  V
** in2: 2.5  V
** inputVoltageBiasXXpXX1: 3.03601  V
** out: 2.5  V
** outSourceVoltageBiasXXnXX1: 0.558001  V
** outSourceVoltageBiasXXpXX1: 4.12801  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerOutputLoad2: 1.16901  V
** innerTransistorStack1Load2: 0.567001  V
** innerTransistorStack2Load2: 0.566001  V
** sourceGCC1: 3.75501  V
** sourceGCC2: 3.75501  V
** sourceTransconductance: 1.93101  V
** inner: 0.556001  V


.END