** Name: SimpleOpAmp94

.MACRO SimpleOpAmp94 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias sourceNmos sourceNmos nmos4 L=3e-6 W=15e-6
mDiodeTransistorNmos2 outVoltageBiasXXnXX1 outVoltageBiasXXnXX1 sourceTransconductance sourceTransconductance nmos4 L=3e-6 W=23e-6
mDiodeTransistorPmos3 inputVoltageBiasXXpXX1 inputVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=6e-6 W=6e-6
mDiodeTransistorPmos4 outVoltageBiasXXpXX0 outVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=6e-6 W=23e-6
mDiodeTransistorPmos5 FirstStageYout1 FirstStageYout1 sourcePmos sourcePmos pmos4 L=1e-6 W=17e-6
mNormalTransistorNmos6 inputVoltageBiasXXpXX1 ibias sourceNmos sourceNmos nmos4 L=3e-6 W=45e-6
mNormalTransistorNmos7 out outVoltageBiasXXnXX1 FirstStageYsourceGCC2 FirstStageYsourceGCC2 nmos4 L=3e-6 W=210e-6
mNormalTransistorNmos8 outVoltageBiasXXpXX0 ibias sourceNmos sourceNmos nmos4 L=3e-6 W=29e-6
mNormalTransistorNmos9 sourceTransconductance ibias sourceNmos sourceNmos nmos4 L=3e-6 W=497e-6
mNormalTransistorNmos10 FirstStageYout1 outVoltageBiasXXnXX1 FirstStageYsourceGCC1 FirstStageYsourceGCC1 nmos4 L=3e-6 W=210e-6
mNormalTransistorNmos11 FirstStageYsourceGCC1 in1 sourceTransconductance sourceTransconductance nmos4 L=2e-6 W=140e-6
mNormalTransistorNmos12 FirstStageYsourceGCC2 in2 sourceTransconductance sourceTransconductance nmos4 L=2e-6 W=140e-6
mNormalTransistorPmos13 out inputVoltageBiasXXpXX1 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerTransistorStack2Load2 pmos4 L=6e-6 W=227e-6
mNormalTransistorPmos14 outVoltageBiasXXnXX1 outVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=6e-6 W=71e-6
mNormalTransistorPmos15 FirstStageYinnerTransistorStack2Load2 FirstStageYout1 sourcePmos sourcePmos pmos4 L=1e-6 W=17e-6
Capacitor1 out sourceNmos 10e-12
.EOM SimpleOpAmp94

** Expected Performance Values: 
** Gain: 95 dB
** Power consumption: 1.92001 mW
** Area: 5643 (mu_m)^2
** Transit frequency: 27.9181 MHz
** Transit frequency with error factor: 27.9185 MHz
** Slew rate: 32.0738 V/mu_s
** Phase margin: 74.4846°
** CMRR: 136 dB
** VoutMax: 3.89001 V
** VoutMin: 0.450001 V
** VcmMax: 3.58001 V
** VcmMin: 0.710001 V


** Expected Currents: 
** NormalTransistorNmos: 19.2891 muA
** NormalTransistorNmos: 29.7761 muA
** NormalTransistorPmos: -58.3829 muA
** NormalTransistorNmos: 133.325 muA
** NormalTransistorNmos: 133.325 muA
** DiodeTransistorPmos: -133.324 muA
** NormalTransistorPmos: -133.324 muA
** NormalTransistorPmos: -133.324 muA
** NormalTransistorNmos: 325.032 muA
** NormalTransistorNmos: 133.325 muA
** NormalTransistorNmos: 133.325 muA
** DiodeTransistorNmos: 58.3821 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorPmos: -19.2899 muA
** DiodeTransistorPmos: -29.7769 muA


** Expected Voltages: 
** ibias: 0.558001  V
** in1: 2.5  V
** in2: 2.5  V
** inputVoltageBiasXXpXX1: 3.13901  V
** out: 2.5  V
** outVoltageBiasXXnXX1: 2.65001  V
** outVoltageBiasXXpXX0: 3.90801  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** sourceTransconductance: 1.94501  V
** innerTransistorStack2Load2: 4.14501  V
** out1: 3.77101  V
** sourceGCC1: 2.09501  V
** sourceGCC2: 2.09501  V


.END