** Name: SimpleOpAmp96

.MACRO SimpleOpAmp96 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias sourceNmos sourceNmos nmos4 L=2e-6 W=6e-6
mDiodeTransistorNmos2 outVoltageBiasXXnXX1 outVoltageBiasXXnXX1 sourceTransconductance sourceTransconductance nmos4 L=3e-6 W=150e-6
mDiodeTransistorPmos3 inputVoltageBiasXXpXX1 inputVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=4e-6 W=4e-6
mDiodeTransistorPmos4 outVoltageBiasXXpXX0 outVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=1e-6 W=20e-6
mNormalTransistorNmos5 inputVoltageBiasXXpXX1 ibias sourceNmos sourceNmos nmos4 L=2e-6 W=14e-6
mNormalTransistorNmos6 out outVoltageBiasXXnXX1 FirstStageYsourceGCC2 FirstStageYsourceGCC2 nmos4 L=3e-6 W=345e-6
mNormalTransistorNmos7 outVoltageBiasXXpXX0 ibias sourceNmos sourceNmos nmos4 L=2e-6 W=9e-6
mNormalTransistorNmos8 sourceTransconductance ibias sourceNmos sourceNmos nmos4 L=2e-6 W=498e-6
mNormalTransistorNmos9 FirstStageYinnerSourceLoad2 outVoltageBiasXXnXX1 FirstStageYsourceGCC1 FirstStageYsourceGCC1 nmos4 L=3e-6 W=345e-6
mNormalTransistorNmos10 FirstStageYsourceGCC1 in1 sourceTransconductance sourceTransconductance nmos4 L=2e-6 W=230e-6
mNormalTransistorNmos11 FirstStageYsourceGCC2 in2 sourceTransconductance sourceTransconductance nmos4 L=2e-6 W=230e-6
mNormalTransistorPmos12 out inputVoltageBiasXXpXX1 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerTransistorStack2Load2 pmos4 L=4e-6 W=204e-6
mNormalTransistorPmos13 outVoltageBiasXXnXX1 outVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=1e-6 W=518e-6
mNormalTransistorPmos14 FirstStageYinnerTransistorStack1Load2 FirstStageYinnerSourceLoad2 sourcePmos sourcePmos pmos4 L=2e-6 W=59e-6
mNormalTransistorPmos15 FirstStageYinnerSourceLoad2 inputVoltageBiasXXpXX1 FirstStageYinnerTransistorStack1Load2 FirstStageYinnerTransistorStack1Load2 pmos4 L=4e-6 W=204e-6
mNormalTransistorPmos16 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerSourceLoad2 sourcePmos sourcePmos pmos4 L=2e-6 W=59e-6
Capacitor1 out sourceNmos 10e-12
.EOM SimpleOpAmp96

** Expected Performance Values: 
** Gain: 95 dB
** Power consumption: 4.33201 mW
** Area: 6916 (mu_m)^2
** Transit frequency: 45.6551 MHz
** Transit frequency with error factor: 45.6546 MHz
** Slew rate: 80.3625 V/mu_s
** Phase margin: 65.3172°
** CMRR: 131 dB
** VoutMax: 3.87001 V
** VoutMin: 0.5 V
** VcmMax: 4.61001 V
** VcmMin: 0.75 V


** Expected Currents: 
** NormalTransistorNmos: 14.8751 muA
** NormalTransistorNmos: 23.4641 muA
** NormalTransistorPmos: -380.09 muA
** NormalTransistorNmos: 219.033 muA
** NormalTransistorNmos: 219.033 muA
** NormalTransistorPmos: -219.032 muA
** NormalTransistorPmos: -219.033 muA
** NormalTransistorPmos: -219.032 muA
** NormalTransistorPmos: -219.033 muA
** NormalTransistorNmos: 818.156 muA
** NormalTransistorNmos: 219.033 muA
** NormalTransistorNmos: 219.033 muA
** DiodeTransistorNmos: 380.091 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorPmos: -14.8759 muA
** DiodeTransistorPmos: -23.4649 muA


** Expected Voltages: 
** ibias: 0.603001  V
** in1: 2.5  V
** in2: 2.5  V
** inputVoltageBiasXXpXX1: 3.28501  V
** out: 2.5  V
** outVoltageBiasXXnXX1: 2.65001  V
** outVoltageBiasXXpXX0: 4.23301  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** sourceTransconductance: 1.94501  V
** innerSourceLoad2: 3.78901  V
** innerTransistorStack1Load2: 4.33701  V
** innerTransistorStack2Load2: 4.33701  V
** sourceGCC1: 2.09501  V
** sourceGCC2: 2.09501  V


.END