** Name: SimpleOpAmp113

.MACRO SimpleOpAmp113 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias outSourceVoltageBiasXXnXX2 outSourceVoltageBiasXXnXX2 nmos4 L=2e-6 W=9e-6
mDiodeTransistorNmos2 outSourceVoltageBiasXXnXX2 outSourceVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=2e-6 W=10e-6
mDiodeTransistorNmos3 outVoltageBiasXXnXX1 outVoltageBiasXXnXX1 sourceTransconductance sourceTransconductance nmos4 L=3e-6 W=28e-6
mDiodeTransistorPmos4 outVoltageBiasXXpXX0 outVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=3e-6 W=231e-6
mDiodeTransistorPmos5 FirstStageYout1 FirstStageYout1 sourcePmos sourcePmos pmos4 L=8e-6 W=171e-6
mNormalTransistorNmos6 out outVoltageBiasXXnXX1 FirstStageYsourceGCC2 FirstStageYsourceGCC2 nmos4 L=3e-6 W=309e-6
mNormalTransistorNmos7 outVoltageBiasXXpXX0 outSourceVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=2e-6 W=100e-6
mNormalTransistorNmos8 sourceTransconductance ibias FirstStageYinnerStageBias FirstStageYinnerStageBias nmos4 L=2e-6 W=487e-6
mNormalTransistorNmos9 FirstStageYinnerStageBias outSourceVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=2e-6 W=469e-6
mNormalTransistorNmos10 FirstStageYout1 outVoltageBiasXXnXX1 FirstStageYsourceGCC1 FirstStageYsourceGCC1 nmos4 L=3e-6 W=309e-6
mNormalTransistorNmos11 FirstStageYsourceGCC1 in1 sourceTransconductance sourceTransconductance nmos4 L=1e-6 W=103e-6
mNormalTransistorNmos12 FirstStageYsourceGCC2 in2 sourceTransconductance sourceTransconductance nmos4 L=1e-6 W=103e-6
mNormalTransistorPmos13 out FirstStageYout1 sourcePmos sourcePmos pmos4 L=8e-6 W=171e-6
mNormalTransistorPmos14 outVoltageBiasXXnXX1 outVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=3e-6 W=168e-6
Capacitor1 out sourceNmos 10e-12
.EOM SimpleOpAmp113

** Expected Performance Values: 
** Gain: 53 dB
** Power consumption: 2.86801 mW
** Area: 8227 (mu_m)^2
** Transit frequency: 40.9911 MHz
** Transit frequency with error factor: 40.9915 MHz
** Slew rate: 45.6664 V/mu_s
** Phase margin: 67.6091°
** CMRR: 93 dB
** VoutMax: 4.28001 V
** VoutMin: 0.600001 V
** VcmMax: 3.97001 V
** VcmMin: 1.26001 V


** Expected Currents: 
** NormalTransistorNmos: 99.8261 muA
** NormalTransistorPmos: -71.4229 muA
** NormalTransistorNmos: 196.178 muA
** NormalTransistorNmos: 196.178 muA
** DiodeTransistorPmos: -196.177 muA
** NormalTransistorPmos: -196.177 muA
** NormalTransistorNmos: 463.778 muA
** NormalTransistorNmos: 463.777 muA
** NormalTransistorNmos: 196.178 muA
** NormalTransistorNmos: 196.178 muA
** DiodeTransistorNmos: 71.4221 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorNmos: 9.99801 muA
** DiodeTransistorPmos: -99.8269 muA


** Expected Voltages: 
** ibias: 1.125  V
** in1: 2.5  V
** in2: 2.5  V
** out: 2.5  V
** outSourceVoltageBiasXXnXX2: 0.558001  V
** outVoltageBiasXXnXX1: 2.65001  V
** outVoltageBiasXXpXX0: 4.16801  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** sourceTransconductance: 1.94501  V
** innerStageBias: 0.570001  V
** out1: 3.71601  V
** sourceGCC1: 2.09501  V
** sourceGCC2: 2.09501  V


.END